US06809097B1
Powdered potassium hydroxide (55 mg, 0.98 mmol) followed by 4-chloro-6,7-dimethoxyquinoline (200 mg, 0.89 mmol), (prepared as described for the starting material in Example 2), was added to 2-fluoro-5-hydroxy-4-methylphenol (600 mg, 4.2 mmol) heated at 130° C. and the mixture then stirred for 1.5 hours at 145° C. The mixture was allowed to cool then partitioned between ethyl acetate and water and the aqueous layer was adjusted to pH7 with 5M hydrochloric acid. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by preparative reverse-phase HPLC eluting with water/methanol (90/10 to 30/o) to give 6,7-dimethoxy-4-(2-fluoro-5-hydroxy-4-methylphenoxy)quinoline (65 mg, 22%) as a white solid.

reactant | potassium hydroxide | 0.98 mmol, 55 mg | [OH-].[K+]
reactant | 4-chloro-6,7-dimethoxyquinoline | 0.89 mmol, 200 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-fluoro-5-hydroxy-4-methylphenol | 4.2 mmol, 600 mg | FC1=C(C=C(C(=C1)C)O)O | C7H7FO2
product | 6,7-dimethoxy-4-(2-fluoro-5-hydroxy-4-methylphenoxy)quinoline | 65 mg, 22% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C(=C1)O)C)F | C18H16FNO4
